US05220021
Ethenylidene Bisphosphonic Acid Tetraethyl Ester (II)
Paraformaldehyde (104.2 g) and diethylamine (50.8 g) are combined in methanol (2 1), warmed until clear, then treated with methylene bisphosphonic acid, tetraethyl ester (190.09 g) and refluxed for 18 hrs. The sample is then concentrated, methanol added, the methanol removed by heat and reduced pressure, toluene is added and removed by heat and reduced pressure. The residue is dissolved in toluene (1 1), treated with p-TSA (0.5 g) and refluxed through a Dean Stark trap for 18 hrs. The sample is concentrated under reduced pressure with heat, dissolved in methylene chloride washed twice with water, dried with magnesium sulfate, and concentrated under reduced pressure with heat. The sample is purified by distillation at reduced pressure to give the title compound, bp=140° (0.6 torr); MS (m/e) 300, 285, 273, 255, 245, 227, 217, 199, 192, 181, 163, 153 and 135; IR (neat) 2984, 2934, 2909, 1651, 1580, 1479, 1444, 1392, 1254, 1166, 1098, 1042, 1025, 974, 855, 813 and 800 cm-1 ; NMR (CDCl3) 7.1, 6.7, 4.1 and 1.3 δ.

reactant | Paraformaldehyde | 104.2 g | C=O | CH2O
reactant | diethylamine | 50.8 g | C(C)NCC | C4H11N
reactant | methylene bisphosphonic acid, tetraethyl ester | 190.09 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
solvent | methanol | CO | CH4O
product | Ethenylidene Bisphosphonic Acid Tetraethyl Ester | C(C)OP(OCC)(=O)C(=C)P(OCC)(OCC)=O | C10H22O6P2
